US06056895
29.1 g of bicyclohexyl-4,4'-dione and 123 g of propyl-triphenylphosphonium bromide were suspended in 300 ml of THF. The solution was cooled to 0° C., and a solution of 36 g of potassium tert-butoxide in 100 ml of THF was added dropwise, and the mixture was stirred at RT overnight. Conventional work-up gave 4,4'-dipropylidenebicyclohexyl.

reactant | bicyclohexyl-4,4'-dione | 29.1 g | C1(CCC(CC1)=O)C1CCC(CC1)=O | C12H18O2
reactant | propyl-triphenylphosphonium bromide | 123 g | [Br-].C(CC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 36 g | CC(C)([O-])C.[K+]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4,4'-dipropylidenebicyclohexyl | C(CC)=C1CCC(CC1)C1CCC(CC1)=CCC | C18H30
